US04052455
A solution of 4-nitro-N-(4-nitrostyrylsulfonyl)-benzamidine (15.0 g., 0.04 mole) and 100 ml. of 2N sodium hydroxide in 200 ml. of acetone is stirred at 25° C. for a period of 1 hr. Acetone is removed under reduced pressure, the mixture filtered and the filter cake washed with water and dried affording 8.4 g. (68% yield) of 4-nitro-N-(4-nitrostyryl)benzamidine free base, m.p. 214°-216° C. 4-Nitro-N-(4-nitrostyryl)benzamidine hydrochloride obtained in the usual manner has a melting point of 243°-244° C. (dec.). The free base taken up in methanol and acidified with isethionic acid provides 4-NITRO-N-(4-NITROSTYRYL)BENZAMIDINE ISETHIONATE, m.p. 206.5°-208° C., (corr.).

reactant | 4-nitro-N-(4-nitrostyrylsulfonyl)-benzamidine | 0.04 mole, 15.0 g | [N+](=O)([O-])C1=CC=C(C(=N)NS(=O)(=O)C=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C15H12N4O6S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
product | 4-nitro-N-(4-nitrostyryl)benzamidine | 68% yield | [N+](=O)([O-])C1=CC=C(C(=N)NC=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C15H12N4O4
